US09193697B2
To a solution of 5-[(4-chlorophenyl)sulfanyl]-2-(tetrahydro-2H-pyran-4-yl)-1,3-oxazole (521 g, 17.61 mmol) in DCM (176 ml) was added NBS (3.45 g, 19.38 mmol) and the reaction mixture was stirred at RT for 16 h. The reaction mixture was concentrated in vacuo and purified by flash chromatography (silica 330 g, 5 to 30% EtOAc in hexane), to give 4-bromo-5-[(4-chlorophenyl)sulfanyl]-2-(tetrahydro-2 H-pyran-4-yl)-1,3-oxazole (6.16 g). MS: M+H=376. H′NMR (400 MHz, CDCl3) δ: 7.28 (d, J=8.4 Hz, 2 H), 7.22 (d, J=8.4 Hz, 2 H), 4.01 (dt, J=11.7 Hz, 3.6 Hz, 2 H), 3.50 (td, J=2.7, 11.7 Hz, 2 H), 3.09-2.98 (m, 1 H), 2.02-1.86 (m, 4 H).

reactant | 5-[(4-chlorophenyl)sulfanyl]-2-(tetrahydro-2H-pyran-4-yl)-1,3-oxazole | 17.61 mmol, 521 g | ClC1=CC=C(C=C1)SC1=CN=C(O1)C1CCOCC1 | C14H14ClNO2S
reactant | NBS | 19.38 mmol, 3.45 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 176 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-5-[(4-chlorophenyl)sulfanyl]-2-(tetrahydro-2 H-pyran-4-yl)-1,3-oxazole | 6.16 g | BrC=1N=C(OC1SC1=CC=C(C=C1)Cl)C1CCOCC1 | C14H13BrClNO2S
